US07745641B2
In a similar manner to Step 4 of Example 140, 7-amino-4-ethylisoindolinone (46.0 mg, 0.260 mmol) was dissolved in acetonitrile (6.2 mL), and the solution was treated with potassium iodide (69.1 mg, 0.416 mmol), copper iodide (79.2 mg, 0.416 mmol), iodine (106 mg, 0.416 mmol) and tert-butyl nitrate (0.139 mL, 1.17 mmol), followed by purification by preparative thin-layer chromatography (chloroform/acetonitrile=5/1) to obtain 7-iodo-4-ethylisoindolinone (37.1 mg, yield 50%).

reactant | 7-amino-4-ethylisoindolinone | 0.260 mmol, 46.0 mg | NC=1C=CC(=C2CNC(C12)=O)CC | C10H12N2O
reactant | potassium iodide | 0.416 mmol, 69.1 mg | [I-].[K+]
reactant | iodine | 0.416 mmol, 106 mg | II | I2
reactant | tert-butyl nitrate | 1.17 mmol, 0.139 mL | [N+](=O)(OC(C)(C)C)[O-] | C4H9NO3
solvent | acetonitrile | 6.2 mL | C(C)#N | C2H3N
catalyst | copper iodide | 0.416 mmol, 79.2 mg | [Cu](I)I
product | 7-iodo-4-ethylisoindolinone | 37.1 mg, yield 50% | IC=1C=CC(=C2CNC(C12)=O)CC | C10H10INO
